US08604019B2
N-[2-(2,3-Dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylthieno[3,2-d]pyrimidin-4-yl]propane-1,3-diamine
The title compound was prepared in analogy to Example 1-1 in Scheme 1 by using 2,4-dichloro-6-methylthieno[3,2-d]pyrimidine and propane-1,3-diamne, followed by reaction with 2,3,4,5-tetrahydro-1,4-benzothiazepine. MS obsd. (ESI+) [(M+H)+] 386, 1H NMR (400 MHz, METHANOL-d4) δ ppm 7.61-7.71 (m, 1H), 7.53 (d, J=7.6 Hz, 1H), 7.15-7.23 (m, 1H), 7.08-7.15 (m, 1H), 6.80 (s, 1H), 5.00 (s, 2H), 4.41 (br. s., 2H), 3.75 (d, J=4.0 Hz, 2H), 2.89-2.98 (m, 4H), 2.53 (s, 3H), 1.84 (m, 2H).

reactant | 2,4-dichloro-6-methylthieno[3,2-d]pyrimidine | ClC=1N=C(C2=C(N1)C=C(S2)C)Cl | C7H4Cl2N2S
reactant | 2,3,4,5-tetrahydro-1,4-benzothiazepine | S1CCNCC2=C1C=CC=C2 | C9H11NS
product | N-[2-(2,3-Dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylthieno[3,2-d]pyrimidin-4-yl]propane-1,3-diamine | S1CCN(CC2=C1C=CC=C2)C=2N=C(C1=C(N2)C=C(S1)C)NCCCN | C19H23N5S2
